US09302989B2
N-[4-(1-isobutyrylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting isobutyryl chloride for acetyl chloride and N-[4-(piperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.28 (s, 1H), 7.46-7.48 (m, 2H), 7.34-7.39 (m, 2H), 7.29-7.33 (m, 2H), 7.12-7.14 (m, 2H), 4.75-4.76 (bs, 4H), 4.53-4.58 (m, 1H), 4.03-4.07 (m, 1H), 3.06-3.14 (m, 1H), 2.86-2.93 (m, 1H), 2.67-2.74 (m, 1H), 2.53-2.61 (m, 1H), 1.75-1.84 (m, 2H), 1.45-1.56 (m, 1H), 1.33-1.45 (m, 1H), 1.03 (d, J=6.7 Hz, 3H), 1.00 (d, J=6.6 Hz, 3H); MS (ESI(−)) m/e 390 (M−H)−.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-[4-(piperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H23N3O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-[4-(1-isobutyrylpiperidin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C(C)C)(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C24H29N3O2
